US05284847
6-Iodo-7-methylthieno(2,3-b)pyrazine-2,3(1H,4H)-dione
7-Methylthieno[2,3-b)pyrazine-2,3(1H,4H)-dione hydrate (1.0 g, 5.0 mmol) was suspended in 60 ml of acetic acid and benzyltrimethylammonium dichloroiodate 95% (2.1 g, 5.75 mmol) and zinc chloride (1.64 g, 12.0 mmol) was added. The mixture was stirred for 4.5 h at room temperature, the precipitate was filtered off, washed with acetic acid, water and dried. The crude compound (1.13 g) was recrystallized from acetic acid/water and twice from ethanol to give 0.38 g (24%) of the title compound. Decomp. above 240° C. 1H-NMR (DMSO-D6, δ): 2.12 (s, 3H), 11.98 (s, 1H), 12.22 (s, 1H).

reactant | 7-Methylthieno[2,3-b)pyrazine-2,3(1H,4H)-dione hydrate | 5.0 mmol, 1.0 g | O.CC1=CSC=2NC(C(NC21)=O)=O
reactant | benzyltrimethylammonium dichloroiodate | 5.75 mmol, 2.1 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | zinc chloride | 12.0 mmol, 1.64 g | [Cl-].[Zn+2].[Cl-]
product | 6-Iodo-7-methylthieno(2,3-b)pyrazine-2,3(1H,4H)-dione | 0.38 g, 24% | IC1=C(C2=C(NC(C(N2)=O)=O)S1)C | C7H5IN2O2S
